US07635684B2
4-[(4-{3-[N-Benzyl-N-(2-carbamoylethyl)amino]propoxy}-2-methylphenyl)methyl]-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole
To a solution of 4-[(4-{3-[N-benzyl-N-(2-carbamoylethyl)amino]propoxy}-2-methylphenyl)methyl]-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole (1.25 g) in methanol (13 mL) was added sodium methoxide (28% methanol solution, 0.25 mL), and the mixture was stirred at 50° C. for 6 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1-5/1) to give the title compound (0.5 g).

reactant | 4-[(4-{3-[N-benzyl-N-(2-carbamoylethyl)amino]propoxy}-2-methylphenyl)methyl]-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | 1.25 g | C(C1=CC=CC=C1)N(CCC(N)=O)CCCOC1=CC(=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O)C | C53H78N4O12
reactant | sodium methoxide | 0.25 mL | C[O-].[Na+]
solvent | methanol | 13 mL | CO | CH4O
product | 4-[(4-{3-[N-Benzyl-N-(2-carbamoylethyl)amino]propoxy}-2-methylphenyl)methyl]-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole | 0.5 g | C(C1=CC=CC=C1)N(CCC(N)=O)CCCOC1=CC(=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C | C33H46N4O8
